US07507729B2
c) (2,5-Dimethyl-2H-pyrazol-3-yl)-acetic acid hydrazide
As described for example 112a, (2,5-dimethyl-2H-pyrazol-3-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (2 equivalents) at reflux for 16 h. Evaporation of all volatiles and chromatography (SiO2, dichloromethane:methanol:aq.ammonia (25%)=100:0:0 to 90:10:1) afforded the title compound as a white solid (yield: 78%). MS: m/e=169.3 [M+H]+.

reactant | (2,5-dimethyl-2H-pyrazol-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1N(N=C(C1)C)C)=O | C9H14N2O2
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (2,5-Dimethyl-2H-pyrazol-3-yl)-acetic acid hydrazide | yield: 78% | CN1N=C(C=C1CC(=O)NN)C | C7H12N4O
